US06949567B2
N-benzyl-4-nitrobenzenesulfonamid (60 g, 1 eq) was dissolved in anhydrous ethanol (2 l) and Pd/C (10 g, 1 eq) was added under inert atmosphere. The mixture was stirred under a hydrogen atmosphere for 8 h. Then the solution was filtered over Celite, concentrated in vacuo to ˜40 ml and then crystallized. The product was washed twice with ethanol (20 ml) at 4° C., filtered and dried in vacuo to give 4-amino-N-benzylbenzenesulfonamide. Yield 75%.

reactant | N-benzyl-4-nitrobenzenesulfonamid | 60 g, 1 eq | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H12N2O4S
solvent | ethanol | 2 l | C(C)O | C2H6O
catalyst | Pd/C | 10 g, 1 eq | [Pd] | Pd
product | 4-amino-N-benzylbenzenesulfonamide | Yield 75% | NC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=CC=C1 | C13H14N2O2S
